US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-pyridinesulfonamide
To a suspension of sodium 2-pyridinesulfinate (48.4 mg, 0.291 mmol) in dichloromethane (3 ml) was added N-chlorosuccinimide (38.9 mg, 0.291 mmol). After 1 hour, the reaction mixture was filtered through a short Celite plug. To the crude sulfonyl chloride solution was added the 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (50 mg, 0.146 mmol) and pyridine (0.035 ml, 0.437 mmol), and the mixture was stirred for 3 hours at ambient temperature. After 3 hours, the reaction was quenched with methanol, and the crude reaction mixture was concentrated, redissolved in methanol, and purified via reversed-phase HPLC chromatography, eluting with 30-60% acetonitrile/0.1% aqueous trifluoroacetic acid. The desired fractions were combined, neutralized with aqueous saturated sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to obtain the title compound (8.8 mg, 12%) as tan solid. MS (ESI): 485 [M+H]+.

reactant | sodium 2-pyridinesulfinate | 0.291 mmol, 48.4 mg | N1=C(C=CC=C1)S(=O)[O-].[Na+]
reactant | N-chlorosuccinimide | 0.291 mmol, 38.9 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.146 mmol, 50 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | pyridine | 0.437 mmol, 0.035 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-pyridinesulfonamide | 8.8 mg, 12% | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=NC=CC=C1)F | C22H21FN6O2S2
